US08071588B2
1,1-Dimethylethyl{[5-cyano-3′-({[dimethyl(1-methylethyl)-silyl]oxy}methyl)-3-biphenylyl]methyl}carbamate-ethane (1:1)
1,1-Dimethylethyl[(3-bromo-5-cyanophenyl)methyl]carbamate (1.90 g, 6.11 mmol), Pd(OAc)2 (76 mg), PPh3 (228 mg) and K2CO3 (1.27 g, 9.16 mmol) were dissolved in dioxane (50 mL). The mixture was heated at 70° C. for 30 min, and then [3-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)phenyl]boronic acid (2.11 g, 7.94 mmol) was added. The mixture reaction was stirred at reflux overnight. The solvent was removed under reduced pressure, then the residue diluted with CH2Cl2 (100 mL). The organic layer was washed with water (30 mL) and brine (30 mL), and dried over Na2SO4. The product, 1,1-dimethylethyl{[5-cyano-3′-({[dimethyl(1-methylethyl)silyl]oxy}methyl)-3-biphenylyl]methyl}carbamate-ethane was purified by flash column chomatography (2.0 g, yield: 72%). 1H NMR (400 MHz, CDCl3) δ 0.12 (s, 6H), 0.96 (s, 9H), 1.47 (s, 9H), 4.41 (d, J=6 Hz, 2H), 4.81 (s, 2H), 7.38-7.44 (m, 3H), 7.50 (s, 1H), 7.55 (s, 1H), 7.70 (s, 1H), 7.75 (s, 1H); 13C NMR (100 MHz, CDCl3) δ −5.2, 18.4, 25.9, 28.3, 43.4, 64.7, 80.1, 113.1, 118.7, 124.7, 125.6, 126.1, 129.0, 129.2, 129.6, 130.4, 133.4, 134.8, 138.6, 141.2, 142.5, 142.9, 155.9; HPLC: retention time: 4.670 min; purity: 94.4%; MS m/z 453 (M+, 32), 339 (M+-TBS, 100).

reactant | 1,1-Dimethylethyl[(3-bromo-5-cyanophenyl)methyl]carbamate | 6.11 mmol, 1.90 g | CC(C)(C)N(C([O-])=O)CC1=CC(=CC(=C1)C#N)Br
reactant | PPh3 | 228 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | K2CO3 | 9.16 mmol, 1.27 g | C(=O)([O-])[O-].[K+].[K+]
reactant | [3-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)phenyl]boronic acid | 7.94 mmol, 2.11 g | CC(C)(C)[Si](OCC=1C=C(C=CC1)B(O)O)(C)C | C13H23BO3Si
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 76 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 1,1-Dimethylethyl{[5-cyano-3′-({[dimethyl(1-methylethyl)-silyl]oxy}methyl)-3-biphenylyl]methyl}carbamate ethane | yield: 72% | CC(C)(C)N(C([O-])=O)CC=1C=C(C=C(C1)C#N)C1=CC(=CC=C1)CO[Si](C(C)C)(C)C.CC | InChI=1S/C25H34N2O3Si.C2H6/c1-18(2)31(6,7)30-17-19-9-8-10-22(12-19)23-13-20(15-26)11-21(14-23)16-27(24(28)29)25(3,4)5;1-2/h8-14,18H,16-17H2,1-7H3,(H,28,29);1-2H3/p-1
